US09302991B2
<Step-1>:1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)propan-1-one
The title compound is prepared in 87% yield (0.53 g, colorless oil) from N-methoxy-N-methyl-6-(2,2,2-trifluoroethoxy)nicotinamide (0.70 g, 2.65 mmol, Step-2 of Amine-1) and ethyl magnesium bromide instead of methyl magnesium bromide by the similar manner in Step-3 of Amine-1.

reactant | N-methoxy-N-methyl-6-(2,2,2-trifluoroethoxy)nicotinamide | 2.65 mmol, 0.70 g | CON(C(C1=CN=C(C=C1)OCC(F)(F)F)=O)C | C10H11F3N2O3
reactant | ethyl magnesium bromide | C(C)[Mg]Br
product | 1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)propan-1-one | 87% yield | FC(COC1=CC=C(C=N1)C(CC)=O)(F)F | C10H10F3NO2
